US07566735B2
1-{[4-(bromomethyl)phenyl]carbonyl}pyrrolidine
A solution of 4-(bromomethyl)benzoic acid (2.43 g, 11.3 mmol) in dichloromethane (40 ml) was treated in one portion with solid 1,1′-carbonyldiimidazole (1.83 g, 11.3 mmol). This mixture was allowed to stir at room temperature for 15 minutes. Pyrrolidine (0.8 g, 11.3 mmol) was then added and the stirring continued for 1 hour at room temperature. The reaction mixture was partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic layer was dried over sodium sulphate and evaporated in vaccuo (i.e under reduced pressure) to give a yellow oil which was added to a 20 g pre-packed silica column and eluted from 20-50% ethyl acetate in petroleum ether to give the title compound as a colourless solid (0.5 g, 17%).

reactant | 4-(bromomethyl)benzoic acid | 11.3 mmol, 2.43 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | 1,1′-carbonyldiimidazole | 11.3 mmol, 1.83 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Pyrrolidine | 11.3 mmol, 0.8 g | N1CCCC1 | C4H9N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-{[4-(bromomethyl)phenyl]carbonyl}pyrrolidine | 0.5 g, 17% | BrCC1=CC=C(C=C1)C(=O)N1CCCC1 | C12H14BrNO
